US07429665B2
4-Methoxy-2-[4-(1-methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline
To a solution of 4-Chloro-2-[4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline (125 mg) in methanol (4 mL) was added phenanthroline (78 mg), cesium carbonate (143 mg) and copper iodide (5 mg). The reaction mixture was heated in a microwave reactor at 165° C. with 50 W of power for 20 min. The reaction mixture was filtered through celite and concentrated. Purification via MPLC biotage chromatography, eluting with 5% methanol/1% ammonium hydroxide/methylene chloride provided the title compound (74 mg). 1H NMR (400 MHz, CDCl3) δ 8.45 (d, J=5.4 Hz, 2 H), 8.18 (d, J=8.3 Hz, 1H), 7.97 (d, J=8.3 Hz, 1H), 7.68 (m, 1H), 7.55 (s, 1H), 7.49 (t, J=7.1 Hz, 1 H), 7.37 (d, J=9.1, Hz, 2 H), 7.15 (d, J=6.2 Hz, 2H), 7.01 (m, 3H), 5.32 (s, 2H), 4.02 (s, 3 H), 3.95 (s, 3H); MS: (M+H m/z=423.3).

reactant | 4-Chloro-2-[4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | 125 mg | ClC1=CC(=NC2=CC=CC=C12)COC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C | C25H19ClN4O
reactant | phenanthroline | 78 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | 143 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methanol | 4 mL | CO | CH4O
catalyst | copper iodide | 5 mg | [Cu](I)I
product | 4-Methoxy-2-[4-(1-methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | 74 mg | COC1=CC(=NC2=CC=CC=C12)COC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C | C26H22N4O2
